US08912329B2
1-(2-(Pyridin-4-yl)morpholino)butan-1-one
To a solution of 2-(pyridin-4-yl)morpholine in dry dichloromethane are added 1.5 eq butanoyl chloride and 2.5 eq triethylamine. After stirring for 6 hours at room temperature the solvent is removed in vacuo and the residue redisolved in ethyl acetate. The organic solution is subsequently washed with 1 M KHSO4, 5% NaHCO3 and brine. After drying over Na2SO4, ethyl acetate is removed in vacuo and the crude 1-(2-(pyridin-4-yl)morpholino)butan-1-one is purified by column chromatography.

reactant | 2-(pyridin-4-yl)morpholine | N1=CC=C(C=C1)C1CNCCO1 | C9H12N2O
reactant | butanoyl chloride | 1.5 eq | C(CCC)(=O)Cl | C4H7ClO
reactant | triethylamine | 2.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-(Pyridin-4-yl)morpholino)butan-1-one | N1=CC=C(C=C1)C1OCCN(C1)C(CCC)=O | C13H18N2O2
